*-- pdngen: spice deck generated for chip 'chiplet5' PDN
*-- die chiplet5:  W/H: 0.002/0.002


.subckt chiplet5
+nd_pad_port_0_1
+nd_pad_port_0_3
+nd_pad_port_1_0
+nd_pad_port_1_2
+nd_pad_port_2_1
+nd_pad_port_2_3
+nd_pad_port_3_0
+nd_pad_port_3_2
*-- p/g port #: 8/8
+nd_1_0_1000_5000

*-- layer 1: net: 0 [X] VDD net from layer 1-2
rd_1_2_0_0_0 nd_1_0_1000_1000 nd_1_0_3000_1000 0.016324
rd_1_2_0_0_1 nd_1_0_3000_1000 nd_1_0_5000_1000 0.016324
rd_1_2_0_0_2 nd_1_0_5000_1000 nd_1_0_7000_1000 0.016324
rd_1_2_0_0_3 nd_1_0_7000_1000 nd_1_0_9000_1000 0.016324
rd_1_2_0_1_0 nd_1_0_1000_3000 nd_1_0_3000_3000 0.016324
rd_1_2_0_1_1 nd_1_0_3000_3000 nd_1_0_5000_3000 0.016324
rd_1_2_0_1_2 nd_1_0_5000_3000 nd_1_0_7000_3000 0.016324
rd_1_2_0_1_3 nd_1_0_7000_3000 nd_1_0_9000_3000 0.016324
rd_1_2_0_2_0 nd_1_0_1000_5000 nd_1_0_3000_5000 0.016324
rd_1_2_0_2_1 nd_1_0_3000_5000 nd_1_0_5000_5000 0.016324
rd_1_2_0_2_2 nd_1_0_5000_5000 nd_1_0_7000_5000 0.016324
rd_1_2_0_2_3 nd_1_0_7000_5000 nd_1_0_9000_5000 0.016324
rd_1_2_0_3_0 nd_1_0_1000_7000 nd_1_0_3000_7000 0.016324
rd_1_2_0_3_1 nd_1_0_3000_7000 nd_1_0_5000_7000 0.016324
rd_1_2_0_3_2 nd_1_0_5000_7000 nd_1_0_7000_7000 0.016324
rd_1_2_0_3_3 nd_1_0_7000_7000 nd_1_0_9000_7000 0.016324
rd_1_2_0_4_0 nd_1_0_1000_9000 nd_1_0_3000_9000 0.016324
rd_1_2_0_4_1 nd_1_0_3000_9000 nd_1_0_5000_9000 0.016324
rd_1_2_0_4_2 nd_1_0_5000_9000 nd_1_0_7000_9000 0.016324
rd_1_2_0_4_3 nd_1_0_7000_9000 nd_1_0_9000_9000 0.016324
*-- layer 1: net: 0 [X] VSS net from layer 1-2
*-- layer 2: net: 0 [Y] VDD net from layer 2-1
rd_2_1_0_0_0 nd_2_0_1000_1000 nd_2_0_1000_3000 0.016324
rd_2_1_0_0_1 nd_2_0_1000_3000 nd_2_0_1000_5000 0.016324
rd_2_1_0_0_2 nd_2_0_1000_5000 nd_2_0_1000_7000 0.016324
rd_2_1_0_0_3 nd_2_0_1000_7000 nd_2_0_1000_9000 0.016324
rd_2_1_0_1_0 nd_2_0_3000_1000 nd_2_0_3000_3000 0.016324
rd_2_1_0_1_1 nd_2_0_3000_3000 nd_2_0_3000_5000 0.016324
rd_2_1_0_1_2 nd_2_0_3000_5000 nd_2_0_3000_7000 0.016324
rd_2_1_0_1_3 nd_2_0_3000_7000 nd_2_0_3000_9000 0.016324
rd_2_1_0_2_0 nd_2_0_5000_1000 nd_2_0_5000_3000 0.016324
rd_2_1_0_2_1 nd_2_0_5000_3000 nd_2_0_5000_5000 0.016324
rd_2_1_0_2_2 nd_2_0_5000_5000 nd_2_0_5000_7000 0.016324
rd_2_1_0_2_3 nd_2_0_5000_7000 nd_2_0_5000_9000 0.016324
rd_2_1_0_3_0 nd_2_0_7000_1000 nd_2_0_7000_3000 0.016324
rd_2_1_0_3_1 nd_2_0_7000_3000 nd_2_0_7000_5000 0.016324
rd_2_1_0_3_2 nd_2_0_7000_5000 nd_2_0_7000_7000 0.016324
rd_2_1_0_3_3 nd_2_0_7000_7000 nd_2_0_7000_9000 0.016324
rd_2_1_0_4_0 nd_2_0_9000_1000 nd_2_0_9000_3000 0.016324
rd_2_1_0_4_1 nd_2_0_9000_3000 nd_2_0_9000_5000 0.016324
rd_2_1_0_4_2 nd_2_0_9000_5000 nd_2_0_9000_7000 0.016324
rd_2_1_0_4_3 nd_2_0_9000_7000 nd_2_0_9000_9000 0.016324
*-- layer 2: net: 0 [Y] VSS net from layer 2-1
*-- via layer 1-2: net: 0 VDD net
rvd_1_0_0_0 nd_1_0_1000_1000 nd_2_0_1000_1000 0.005
rvd_1_0_0_1 nd_1_0_3000_1000 nd_2_0_3000_1000 0.005
rvd_1_0_0_2 nd_1_0_5000_1000 nd_2_0_5000_1000 0.005
rvd_1_0_0_3 nd_1_0_7000_1000 nd_2_0_7000_1000 0.005
rvd_1_0_0_4 nd_1_0_9000_1000 nd_2_0_9000_1000 0.005
rvd_1_0_1_0 nd_1_0_1000_3000 nd_2_0_1000_3000 0.005
rvd_1_0_1_1 nd_1_0_3000_3000 nd_2_0_3000_3000 0.005
rvd_1_0_1_2 nd_1_0_5000_3000 nd_2_0_5000_3000 0.005
rvd_1_0_1_3 nd_1_0_7000_3000 nd_2_0_7000_3000 0.005
rvd_1_0_1_4 nd_1_0_9000_3000 nd_2_0_9000_3000 0.005
rvd_1_0_2_0 nd_1_0_1000_5000 nd_2_0_1000_5000 0.005
rvd_1_0_2_1 nd_1_0_3000_5000 nd_2_0_3000_5000 0.005
rvd_1_0_2_2 nd_1_0_5000_5000 nd_2_0_5000_5000 0.005
rvd_1_0_2_3 nd_1_0_7000_5000 nd_2_0_7000_5000 0.005
rvd_1_0_2_4 nd_1_0_9000_5000 nd_2_0_9000_5000 0.005
rvd_1_0_3_0 nd_1_0_1000_7000 nd_2_0_1000_7000 0.005
rvd_1_0_3_1 nd_1_0_3000_7000 nd_2_0_3000_7000 0.005
rvd_1_0_3_2 nd_1_0_5000_7000 nd_2_0_5000_7000 0.005
rvd_1_0_3_3 nd_1_0_7000_7000 nd_2_0_7000_7000 0.005
rvd_1_0_3_4 nd_1_0_9000_7000 nd_2_0_9000_7000 0.005
rvd_1_0_4_0 nd_1_0_1000_9000 nd_2_0_1000_9000 0.005
rvd_1_0_4_1 nd_1_0_3000_9000 nd_2_0_3000_9000 0.005
rvd_1_0_4_2 nd_1_0_5000_9000 nd_2_0_5000_9000 0.005
rvd_1_0_4_3 nd_1_0_7000_9000 nd_2_0_7000_9000 0.005
rvd_1_0_4_4 nd_1_0_9000_9000 nd_2_0_9000_9000 0.005
*-- via layer 1-2: net: 0 VSS net
id_0_0_0_0 nd_1_0_1000_1000 0 pwl(0 0.0 8.923e-01ns 0.0  9.423e-01ns 2.0e-02  9.467e-01ns 2.0e-02  9.967e-01ns 0.0)
rdesr_0_0_0_0 nd_1_0_1000_1000 nd_1_0_1000_1000_ci 83.0013
cd_0_0_0_0 nd_1_0_1000_1000_ci 0 1.04325e-12
id_0_0_0_1 nd_1_0_3000_1000 0 pwl(0 0.0 7.672e-02ns 0.0  1.267e-01ns 1.1e-02  6.662e-01ns 1.1e-02  7.162e-01ns 0.0)
rdesr_0_0_0_1 nd_1_0_3000_1000 nd_1_0_3000_1000_ci 14.4028
cd_0_0_0_1 nd_1_0_3000_1000_ci 0 4.25504e-12
id_0_0_0_2 nd_1_0_5000_1000 0 pwl(0 0.0 4.147e-01ns 0.0  4.647e-01ns 6.0e-02  5.510e-01ns 6.0e-02  6.010e-01ns 0.0)
rdesr_0_0_0_2 nd_1_0_5000_1000 nd_1_0_5000_1000_ci 10.9743
cd_0_0_0_2 nd_1_0_5000_1000_ci 0 1.50182e-11
id_0_0_0_3 nd_1_0_7000_1000 0 pwl(0 0.0 1.033e-01ns 0.0  1.533e-01ns 2.8e-02  4.180e-01ns 2.8e-02  4.680e-01ns 0.0)
rdesr_0_0_0_3 nd_1_0_7000_1000 nd_1_0_7000_1000_ci 10.1152
cd_0_0_0_3 nd_1_0_7000_1000_ci 0 9.54718e-12
id_0_0_0_4 nd_1_0_9000_1000 0 pwl(0 0.0 2.475e-01ns 0.0  2.975e-01ns 8.1e-04  9.442e-01ns 8.1e-04  9.942e-01ns 0.0)
rdesr_0_0_0_4 nd_1_0_9000_1000 nd_1_0_9000_1000_ci 158.846
cd_0_0_0_4 nd_1_0_9000_1000_ci 0 8.10459e-13
id_0_0_0_5 nd_1_0_1000_3000 0 pwl(0 0.0 8.422e-01ns 0.0  8.922e-01ns 3.2e-02  9.217e-01ns 3.2e-02  9.717e-01ns 0.0)
rdesr_0_0_0_5 nd_1_0_1000_3000 nd_1_0_1000_3000_ci 35.8107
cd_0_0_0_5 nd_1_0_1000_3000_ci 0 1.68976e-12
id_0_0_0_6 nd_1_0_3000_3000 0 pwl(0 0.0 8.555e-02ns 0.0  1.356e-01ns 4.0e-02  2.775e-01ns 4.0e-02  3.275e-01ns 0.0)
rdesr_0_0_0_6 nd_1_0_3000_3000 nd_1_0_3000_3000_ci 11.6764
cd_0_0_0_6 nd_1_0_3000_3000_ci 0 7.93645e-12
id_0_0_0_7 nd_1_0_5000_3000 0 pwl(0 0.0 6.745e-01ns 0.0  7.245e-01ns 3.1e-02  7.983e-01ns 3.1e-02  8.483e-01ns 0.0)
rdesr_0_0_0_7 nd_1_0_5000_3000 nd_1_0_5000_3000_ci 23.2328
cd_0_0_0_7 nd_1_0_5000_3000_ci 0 5.30202e-12
id_0_0_0_8 nd_1_0_7000_3000 0 pwl(0 0.0 8.223e-01ns 0.0  8.723e-01ns 1.0e-02  9.488e-01ns 1.0e-02  9.988e-01ns 0.0)
rdesr_0_0_0_8 nd_1_0_7000_3000 nd_1_0_7000_3000_ci 69.2772
cd_0_0_0_8 nd_1_0_7000_3000_ci 0 8.02163e-13
id_0_0_0_9 nd_1_0_9000_3000 0 pwl(0 0.0 5.124e-01ns 0.0  5.624e-01ns 1.8e-02  8.677e-01ns 1.8e-02  9.177e-01ns 0.0)
rdesr_0_0_0_9 nd_1_0_9000_3000 nd_1_0_9000_3000_ci 13.7849
cd_0_0_0_9 nd_1_0_9000_3000_ci 0 6.34001e-12
id_0_0_0_10 nd_1_0_1000_5000 0 pwl(0 0.0 6.584e-01ns 0.0  7.084e-01ns 2.5e-02  8.158e-01ns 2.5e-02  8.658e-01ns 0.0)
rdesr_0_0_0_10 nd_1_0_1000_5000 nd_1_0_1000_5000_ci 23.0948
cd_0_0_0_10 nd_1_0_1000_5000_ci 0 5.17372e-12
id_0_0_0_11 nd_1_0_3000_5000 0 pwl(0 0.0 7.995e-01ns 0.0  8.495e-01ns 1.1e-03  9.106e-01ns 1.1e-03  9.606e-01ns 0.0)
rdesr_0_0_0_11 nd_1_0_3000_5000 nd_1_0_3000_5000_ci 727.669
cd_0_0_0_11 nd_1_0_3000_5000_ci 0 7.06103e-14
id_0_0_0_12 nd_1_0_5000_5000 0 pwl(0 0.0 4.932e-01ns 0.0  5.432e-01ns 1.5e-02  8.527e-01ns 1.5e-02  9.027e-01ns 0.0)
rdesr_0_0_0_12 nd_1_0_5000_5000 nd_1_0_5000_5000_ci 16.8446
cd_0_0_0_12 nd_1_0_5000_5000_ci 0 4.97707e-12
id_0_0_0_13 nd_1_0_7000_5000 0 pwl(0 0.0 6.331e-01ns 0.0  6.831e-01ns 2.4e-02  9.293e-01ns 2.4e-02  9.793e-01ns 0.0)
rdesr_0_0_0_13 nd_1_0_7000_5000 nd_1_0_7000_5000_ci 12.4549
cd_0_0_0_13 nd_1_0_7000_5000_ci 0 9.23541e-12
id_0_0_0_14 nd_1_0_9000_5000 0 pwl(0 0.0 7.777e-01ns 0.0  8.277e-01ns 2.8e-02  8.988e-01ns 2.8e-02  9.488e-01ns 0.0)
rdesr_0_0_0_14 nd_1_0_9000_5000 nd_1_0_9000_5000_ci 26.1679
cd_0_0_0_14 nd_1_0_9000_5000_ci 0 1.78151e-12
id_0_0_0_15 nd_1_0_1000_7000 0 pwl(0 0.0 5.976e-01ns 0.0  6.476e-01ns 3.4e-02  7.194e-01ns 3.4e-02  7.694e-01ns 0.0)
rdesr_0_0_0_15 nd_1_0_1000_7000 nd_1_0_1000_7000_ci 22.0422
cd_0_0_0_15 nd_1_0_1000_7000_ci 0 4.83242e-12
id_0_0_0_16 nd_1_0_3000_7000 0 pwl(0 0.0 2.893e-01ns 0.0  3.393e-01ns 1.0e-02  8.882e-01ns 1.0e-02  9.382e-01ns 0.0)
rdesr_0_0_0_16 nd_1_0_3000_7000 nd_1_0_3000_7000_ci 14.8764
cd_0_0_0_16 nd_1_0_3000_7000_ci 0 9.28289e-12
id_0_0_0_17 nd_1_0_5000_7000 0 pwl(0 0.0 4.322e-01ns 0.0  4.822e-01ns 7.2e-03  7.427e-01ns 7.2e-03  7.927e-01ns 0.0)
rdesr_0_0_0_17 nd_1_0_5000_7000 nd_1_0_5000_7000_ci 40.1809
cd_0_0_0_17 nd_1_0_5000_7000_ci 0 1.72891e-12
id_0_0_0_18 nd_1_0_7000_7000 0 pwl(0 0.0 1.288e-01ns 0.0  1.788e-01ns 4.0e-02  3.466e-01ns 4.0e-02  3.966e-01ns 0.0)
rdesr_0_0_0_18 nd_1_0_7000_7000 nd_1_0_7000_7000_ci 10.3874
cd_0_0_0_18 nd_1_0_7000_7000_ci 0 4.49831e-12
id_0_0_0_19 nd_1_0_9000_7000 0 pwl(0 0.0 2.530e-02ns 0.0  7.530e-02ns 5.7e-04  6.047e-01ns 5.7e-04  6.547e-01ns 0.0)
rdesr_0_0_0_19 nd_1_0_9000_7000 nd_1_0_9000_7000_ci 274.476
cd_0_0_0_19 nd_1_0_9000_7000_ci 0 5.49072e-13
id_0_0_0_20 nd_1_0_1000_9000 0 pwl(0 0.0 3.992e-02ns 0.0  8.992e-02ns 2.0e-02  3.148e-01ns 2.0e-02  3.648e-01ns 0.0)
rdesr_0_0_0_20 nd_1_0_1000_9000 nd_1_0_1000_9000_ci 16.2718
cd_0_0_0_20 nd_1_0_1000_9000_ci 0 5.05994e-12
id_0_0_0_21 nd_1_0_3000_9000 0 pwl(0 0.0 1.842e-01ns 0.0  2.342e-01ns 8.5e-03  5.366e-01ns 8.5e-03  5.866e-01ns 0.0)
rdesr_0_0_0_21 nd_1_0_3000_9000 nd_1_0_3000_9000_ci 29.9778
cd_0_0_0_21 nd_1_0_3000_9000_ci 0 4.54705e-13
id_0_0_0_22 nd_1_0_5000_9000 0 pwl(0 0.0 7.753e-01ns 0.0  8.253e-01ns 1.4e-01  8.352e-01ns 1.4e-01  8.852e-01ns 0.0)
rdesr_0_0_0_22 nd_1_0_5000_9000 nd_1_0_5000_9000_ci 11.0081
cd_0_0_0_22 nd_1_0_5000_9000_ci 0 4.13262e-12
id_0_0_0_23 nd_1_0_7000_9000 0 pwl(0 0.0 1.785e-02ns 0.0  6.785e-02ns 6.2e-03  7.184e-01ns 6.2e-03  7.684e-01ns 0.0)
rdesr_0_0_0_23 nd_1_0_7000_9000 nd_1_0_7000_9000_ci 20.7068
cd_0_0_0_23 nd_1_0_7000_9000_ci 0 8.57117e-12
id_0_0_0_24 nd_1_0_9000_9000 0 pwl(0 0.0 6.101e-01ns 0.0  6.601e-01ns 6.5e-03  8.785e-01ns 6.5e-03  9.285e-01ns 0.0)
rdesr_0_0_0_24 nd_1_0_9000_9000 nd_1_0_9000_9000_ci 51.7087
cd_0_0_0_24 nd_1_0_9000_9000_ci 0 3.50044e-12

*-- intentional decap
cd_add_cap0 nd_1_0_3000_3000 nd0 'dcap_int_val152'
cd_add_cap1 nd_1_0_7000_3000 nd1 'dcap_int_val153'
cd_add_cap2 nd_1_0_3000_7000 nd2 'dcap_int_val154'
cd_add_cap3 nd_1_0_7000_7000 nd3 'dcap_int_val155'
rd_add0 nd0 0 'esr31'
rd_add1 nd1 0 'esr32'
rd_add2 nd2 0 'esr33'
rd_add3 nd3 0 'esr34'

.include 'moscap_esr.txt'
.include 'int_param_dcap.txt'


*-- p/g pad array
xd_pad_0_1 nd_pad_port_0_1 nd_pad_0_1 ubump_subckt
xd_pad_0_3 nd_pad_port_0_3 nd_pad_0_3 ubump_subckt
xd_pad_1_0 nd_pad_port_1_0 nd_pad_1_0 ubump_subckt
xd_pad_1_2 nd_pad_port_1_2 nd_pad_1_2 ubump_subckt
xd_pad_2_1 nd_pad_port_2_1 nd_pad_2_1 ubump_subckt
xd_pad_2_3 nd_pad_port_2_3 nd_pad_2_3 ubump_subckt
xd_pad_3_0 nd_pad_port_3_0 nd_pad_3_0 ubump_subckt
xd_pad_3_2 nd_pad_port_3_2 nd_pad_3_2 ubump_subckt
.include 'ubump.subckt'

*-- pad to via
rd_pad2via_0_1 nd_pad_0_1 nd_2_0_1000_3000  0.001
rd_pad2via_0_3 nd_pad_0_3 nd_2_0_1000_7000  0.001
rd_pad2via_1_0 nd_pad_1_0 nd_2_0_3000_1000  0.001
rd_pad2via_1_2 nd_pad_1_2 nd_2_0_3000_5000  0.001
rd_pad2via_2_1 nd_pad_2_1 nd_2_0_5000_3000  0.001
rd_pad2via_2_3 nd_pad_2_3 nd_2_0_5000_7000  0.001
rd_pad2via_3_0 nd_pad_3_0 nd_2_0_7000_1000  0.001
rd_pad2via_3_2 nd_pad_3_2 nd_2_0_7000_5000  0.001

.ends chiplet5
