*-- pdngen: spice deck generated for chip 'chiplet8' PDN
*-- die chiplet8:  W/H: 0.002/0.002


.subckt chiplet8
+nd_pad_port_0_1
+nd_pad_port_0_3
+nd_pad_port_1_0
+nd_pad_port_1_2
+nd_pad_port_2_1
+nd_pad_port_2_3
+nd_pad_port_3_0
+nd_pad_port_3_2
*-- p/g port #: 8/8
+nd_1_0_3000_3000

*-- layer 1: net: 0 [X] VDD net from layer 1-2
rd_1_2_0_0_0 nd_1_0_1000_1000 nd_1_0_3000_1000 0.016324
rd_1_2_0_0_1 nd_1_0_3000_1000 nd_1_0_5000_1000 0.016324
rd_1_2_0_0_2 nd_1_0_5000_1000 nd_1_0_7000_1000 0.016324
rd_1_2_0_0_3 nd_1_0_7000_1000 nd_1_0_9000_1000 0.016324
rd_1_2_0_1_0 nd_1_0_1000_3000 nd_1_0_3000_3000 0.016324
rd_1_2_0_1_1 nd_1_0_3000_3000 nd_1_0_5000_3000 0.016324
rd_1_2_0_1_2 nd_1_0_5000_3000 nd_1_0_7000_3000 0.016324
rd_1_2_0_1_3 nd_1_0_7000_3000 nd_1_0_9000_3000 0.016324
rd_1_2_0_2_0 nd_1_0_1000_5000 nd_1_0_3000_5000 0.016324
rd_1_2_0_2_1 nd_1_0_3000_5000 nd_1_0_5000_5000 0.016324
rd_1_2_0_2_2 nd_1_0_5000_5000 nd_1_0_7000_5000 0.016324
rd_1_2_0_2_3 nd_1_0_7000_5000 nd_1_0_9000_5000 0.016324
rd_1_2_0_3_0 nd_1_0_1000_7000 nd_1_0_3000_7000 0.016324
rd_1_2_0_3_1 nd_1_0_3000_7000 nd_1_0_5000_7000 0.016324
rd_1_2_0_3_2 nd_1_0_5000_7000 nd_1_0_7000_7000 0.016324
rd_1_2_0_3_3 nd_1_0_7000_7000 nd_1_0_9000_7000 0.016324
rd_1_2_0_4_0 nd_1_0_1000_9000 nd_1_0_3000_9000 0.016324
rd_1_2_0_4_1 nd_1_0_3000_9000 nd_1_0_5000_9000 0.016324
rd_1_2_0_4_2 nd_1_0_5000_9000 nd_1_0_7000_9000 0.016324
rd_1_2_0_4_3 nd_1_0_7000_9000 nd_1_0_9000_9000 0.016324
*-- layer 1: net: 0 [X] VSS net from layer 1-2
*-- layer 2: net: 0 [Y] VDD net from layer 2-1
rd_2_1_0_0_0 nd_2_0_1000_1000 nd_2_0_1000_3000 0.016324
rd_2_1_0_0_1 nd_2_0_1000_3000 nd_2_0_1000_5000 0.016324
rd_2_1_0_0_2 nd_2_0_1000_5000 nd_2_0_1000_7000 0.016324
rd_2_1_0_0_3 nd_2_0_1000_7000 nd_2_0_1000_9000 0.016324
rd_2_1_0_1_0 nd_2_0_3000_1000 nd_2_0_3000_3000 0.016324
rd_2_1_0_1_1 nd_2_0_3000_3000 nd_2_0_3000_5000 0.016324
rd_2_1_0_1_2 nd_2_0_3000_5000 nd_2_0_3000_7000 0.016324
rd_2_1_0_1_3 nd_2_0_3000_7000 nd_2_0_3000_9000 0.016324
rd_2_1_0_2_0 nd_2_0_5000_1000 nd_2_0_5000_3000 0.016324
rd_2_1_0_2_1 nd_2_0_5000_3000 nd_2_0_5000_5000 0.016324
rd_2_1_0_2_2 nd_2_0_5000_5000 nd_2_0_5000_7000 0.016324
rd_2_1_0_2_3 nd_2_0_5000_7000 nd_2_0_5000_9000 0.016324
rd_2_1_0_3_0 nd_2_0_7000_1000 nd_2_0_7000_3000 0.016324
rd_2_1_0_3_1 nd_2_0_7000_3000 nd_2_0_7000_5000 0.016324
rd_2_1_0_3_2 nd_2_0_7000_5000 nd_2_0_7000_7000 0.016324
rd_2_1_0_3_3 nd_2_0_7000_7000 nd_2_0_7000_9000 0.016324
rd_2_1_0_4_0 nd_2_0_9000_1000 nd_2_0_9000_3000 0.016324
rd_2_1_0_4_1 nd_2_0_9000_3000 nd_2_0_9000_5000 0.016324
rd_2_1_0_4_2 nd_2_0_9000_5000 nd_2_0_9000_7000 0.016324
rd_2_1_0_4_3 nd_2_0_9000_7000 nd_2_0_9000_9000 0.016324
*-- layer 2: net: 0 [Y] VSS net from layer 2-1
*-- via layer 1-2: net: 0 VDD net
rvd_1_0_0_0 nd_1_0_1000_1000 nd_2_0_1000_1000 0.005
rvd_1_0_0_1 nd_1_0_3000_1000 nd_2_0_3000_1000 0.005
rvd_1_0_0_2 nd_1_0_5000_1000 nd_2_0_5000_1000 0.005
rvd_1_0_0_3 nd_1_0_7000_1000 nd_2_0_7000_1000 0.005
rvd_1_0_0_4 nd_1_0_9000_1000 nd_2_0_9000_1000 0.005
rvd_1_0_1_0 nd_1_0_1000_3000 nd_2_0_1000_3000 0.005
rvd_1_0_1_1 nd_1_0_3000_3000 nd_2_0_3000_3000 0.005
rvd_1_0_1_2 nd_1_0_5000_3000 nd_2_0_5000_3000 0.005
rvd_1_0_1_3 nd_1_0_7000_3000 nd_2_0_7000_3000 0.005
rvd_1_0_1_4 nd_1_0_9000_3000 nd_2_0_9000_3000 0.005
rvd_1_0_2_0 nd_1_0_1000_5000 nd_2_0_1000_5000 0.005
rvd_1_0_2_1 nd_1_0_3000_5000 nd_2_0_3000_5000 0.005
rvd_1_0_2_2 nd_1_0_5000_5000 nd_2_0_5000_5000 0.005
rvd_1_0_2_3 nd_1_0_7000_5000 nd_2_0_7000_5000 0.005
rvd_1_0_2_4 nd_1_0_9000_5000 nd_2_0_9000_5000 0.005
rvd_1_0_3_0 nd_1_0_1000_7000 nd_2_0_1000_7000 0.005
rvd_1_0_3_1 nd_1_0_3000_7000 nd_2_0_3000_7000 0.005
rvd_1_0_3_2 nd_1_0_5000_7000 nd_2_0_5000_7000 0.005
rvd_1_0_3_3 nd_1_0_7000_7000 nd_2_0_7000_7000 0.005
rvd_1_0_3_4 nd_1_0_9000_7000 nd_2_0_9000_7000 0.005
rvd_1_0_4_0 nd_1_0_1000_9000 nd_2_0_1000_9000 0.005
rvd_1_0_4_1 nd_1_0_3000_9000 nd_2_0_3000_9000 0.005
rvd_1_0_4_2 nd_1_0_5000_9000 nd_2_0_5000_9000 0.005
rvd_1_0_4_3 nd_1_0_7000_9000 nd_2_0_7000_9000 0.005
rvd_1_0_4_4 nd_1_0_9000_9000 nd_2_0_9000_9000 0.005
*-- via layer 1-2: net: 0 VSS net
id_0_0_0_0 nd_1_0_1000_1000 0 pwl(0 0.0 4.076e-02ns 0.0  9.076e-02ns 2.4e-03  8.660e-01ns 2.4e-03  9.160e-01ns 0.0)
rdesr_0_0_0_0 nd_1_0_1000_1000 nd_1_0_1000_1000_ci 45.1702
cd_0_0_0_0 nd_1_0_1000_1000_ci 0 1.48537e-12
id_0_0_0_1 nd_1_0_3000_1000 0 pwl(0 0.0 2.430e-01ns 0.0  2.930e-01ns 2.9e-02  3.822e-01ns 2.9e-02  4.322e-01ns 0.0)
rdesr_0_0_0_1 nd_1_0_3000_1000 nd_1_0_3000_1000_ci 22.6731
cd_0_0_0_1 nd_1_0_3000_1000_ci 0 6.24194e-12
id_0_0_0_2 nd_1_0_5000_1000 0 pwl(0 0.0 3.823e-01ns 0.0  4.323e-01ns 5.9e-02  5.052e-01ns 5.9e-02  5.552e-01ns 0.0)
rdesr_0_0_0_2 nd_1_0_5000_1000 nd_1_0_5000_1000_ci 12.4499
cd_0_0_0_2 nd_1_0_5000_1000_ci 0 5.69194e-12
id_0_0_0_3 nd_1_0_7000_1000 0 pwl(0 0.0 3.841e-01ns 0.0  4.341e-01ns 7.0e-03  5.834e-01ns 7.0e-03  6.334e-01ns 0.0)
rdesr_0_0_0_3 nd_1_0_7000_1000 nd_1_0_7000_1000_ci 64.4842
cd_0_0_0_3 nd_1_0_7000_1000_ci 0 1.11803e-12
id_0_0_0_4 nd_1_0_9000_1000 0 pwl(0 0.0 5.234e-01ns 0.0  5.734e-01ns 8.4e-03  9.270e-01ns 8.4e-03  9.770e-01ns 0.0)
rdesr_0_0_0_4 nd_1_0_9000_1000 nd_1_0_9000_1000_ci 26.7055
cd_0_0_0_4 nd_1_0_9000_1000_ci 0 1.02606e-13
id_0_0_0_5 nd_1_0_1000_3000 0 pwl(0 0.0 6.566e-01ns 0.0  7.066e-01ns 7.3e-03  9.372e-01ns 7.3e-03  9.872e-01ns 0.0)
rdesr_0_0_0_5 nd_1_0_1000_3000 nd_1_0_1000_3000_ci 43.7567
cd_0_0_0_5 nd_1_0_1000_3000_ci 0 3.03429e-12
id_0_0_0_6 nd_1_0_3000_3000 0 pwl(0 0.0 2.155e-01ns 0.0  2.655e-01ns 1.6e-03  6.721e-01ns 1.6e-03  7.221e-01ns 0.0)
rdesr_0_0_0_6 nd_1_0_3000_3000 nd_1_0_3000_3000_ci 122.582
cd_0_0_0_6 nd_1_0_3000_3000_ci 0 1.0993e-12
id_0_0_0_7 nd_1_0_5000_3000 0 pwl(0 0.0 8.038e-01ns 0.0  8.538e-01ns 1.2e-01  8.774e-01ns 1.2e-01  9.274e-01ns 0.0)
rdesr_0_0_0_7 nd_1_0_5000_3000 nd_1_0_5000_3000_ci 10.4842
cd_0_0_0_7 nd_1_0_5000_3000_ci 0 1.57352e-11
id_0_0_0_8 nd_1_0_7000_3000 0 pwl(0 0.0 4.838e-01ns 0.0  5.338e-01ns 4.1e-03  8.481e-01ns 4.1e-03  8.981e-01ns 0.0)
rdesr_0_0_0_8 nd_1_0_7000_3000 nd_1_0_7000_3000_ci 60.764
cd_0_0_0_8 nd_1_0_7000_3000_ci 0 3.19078e-12
id_0_0_0_9 nd_1_0_9000_3000 0 pwl(0 0.0 4.947e-01ns 0.0  5.447e-01ns 2.2e-02  7.083e-01ns 2.2e-02  7.583e-01ns 0.0)
rdesr_0_0_0_9 nd_1_0_9000_3000 nd_1_0_9000_3000_ci 19.2551
cd_0_0_0_9 nd_1_0_9000_3000_ci 0 5.00667e-12
id_0_0_0_10 nd_1_0_1000_5000 0 pwl(0 0.0 6.263e-01ns 0.0  6.763e-01ns 3.9e-02  8.291e-01ns 3.9e-02  8.791e-01ns 0.0)
rdesr_0_0_0_10 nd_1_0_1000_5000 nd_1_0_1000_5000_ci 11.3188
cd_0_0_0_10 nd_1_0_1000_5000_ci 0 1.11105e-11
id_0_0_0_11 nd_1_0_3000_5000 0 pwl(0 0.0 7.625e-01ns 0.0  8.125e-01ns 4.5e-02  9.097e-01ns 4.5e-02  9.597e-01ns 0.0)
rdesr_0_0_0_11 nd_1_0_3000_5000 nd_1_0_3000_5000_ci 13.4663
cd_0_0_0_11 nd_1_0_3000_5000_ci 0 4.22466e-12
id_0_0_0_12 nd_1_0_5000_5000 0 pwl(0 0.0 8.980e-01ns 0.0  9.480e-01ns 1.7e-01  9.980e-01ns 0.0)
rdesr_0_0_0_12 nd_1_0_5000_5000 nd_1_0_5000_5000_ci 10.4137
cd_0_0_0_12 nd_1_0_5000_5000_ci 0 8.31835e-12
id_0_0_0_13 nd_1_0_7000_5000 0 pwl(0 0.0 1.307e-01ns 0.0  1.807e-01ns 2.2e-02  4.587e-01ns 2.2e-02  5.087e-01ns 0.0)
rdesr_0_0_0_13 nd_1_0_7000_5000 nd_1_0_7000_5000_ci 12.2592
cd_0_0_0_13 nd_1_0_7000_5000_ci 0 1.41064e-12
id_0_0_0_14 nd_1_0_9000_5000 0 pwl(0 0.0 5.929e-01ns 0.0  6.429e-01ns 7.3e-03  8.013e-01ns 7.3e-03  8.513e-01ns 0.0)
rdesr_0_0_0_14 nd_1_0_9000_5000 nd_1_0_9000_5000_ci 59.0168
cd_0_0_0_14 nd_1_0_9000_5000_ci 0 1.99595e-12
id_0_0_0_15 nd_1_0_1000_7000 0 pwl(0 0.0 2.743e-01ns 0.0  3.243e-01ns 1.9e-03  4.299e-01ns 1.9e-03  4.799e-01ns 0.0)
rdesr_0_0_0_15 nd_1_0_1000_7000 nd_1_0_1000_7000_ci 300.461
cd_0_0_0_15 nd_1_0_1000_7000_ci 0 4.91905e-13
id_0_0_0_16 nd_1_0_3000_7000 0 pwl(0 0.0 8.604e-01ns 0.0  9.104e-01ns 3.5e-02  9.230e-01ns 3.5e-02  9.730e-01ns 0.0)
rdesr_0_0_0_16 nd_1_0_3000_7000 nd_1_0_3000_7000_ci 41.2478
cd_0_0_0_16 nd_1_0_3000_7000_ci 0 1.90143e-12
id_0_0_0_17 nd_1_0_5000_7000 0 pwl(0 0.0 9.754e-02ns 0.0  1.475e-01ns 2.2e-03  5.182e-01ns 2.2e-03  5.682e-01ns 0.0)
rdesr_0_0_0_17 nd_1_0_5000_7000 nd_1_0_5000_7000_ci 96.8387
cd_0_0_0_17 nd_1_0_5000_7000_ci 0 8.22901e-14
id_0_0_0_18 nd_1_0_7000_7000 0 pwl(0 0.0 2.346e-01ns 0.0  2.846e-01ns 2.4e-02  6.040e-01ns 2.4e-02  6.540e-01ns 0.0)
rdesr_0_0_0_18 nd_1_0_7000_7000 nd_1_0_7000_7000_ci 10.3265
cd_0_0_0_18 nd_1_0_7000_7000_ci 0 2.45766e-12
id_0_0_0_19 nd_1_0_9000_7000 0 pwl(0 0.0 7.582e-01ns 0.0  8.082e-01ns 5.8e-02  8.875e-01ns 5.8e-02  9.375e-01ns 0.0)
rdesr_0_0_0_19 nd_1_0_9000_7000 nd_1_0_9000_7000_ci 12.061
cd_0_0_0_19 nd_1_0_9000_7000_ci 0 1.28857e-11
id_0_0_0_20 nd_1_0_1000_9000 0 pwl(0 0.0 3.157e-01ns 0.0  3.657e-01ns 2.8e-02  4.889e-01ns 2.8e-02  5.389e-01ns 0.0)
rdesr_0_0_0_20 nd_1_0_1000_9000 nd_1_0_1000_9000_ci 18.3686
cd_0_0_0_20 nd_1_0_1000_9000_ci 0 8.51285e-12
id_0_0_0_21 nd_1_0_3000_9000 0 pwl(0 0.0 4.499e-01ns 0.0  4.999e-01ns 3.8e-02  6.624e-01ns 3.8e-02  7.124e-01ns 0.0)
rdesr_0_0_0_21 nd_1_0_3000_9000 nd_1_0_3000_9000_ci 11.1021
cd_0_0_0_21 nd_1_0_3000_9000_ci 0 1.67811e-11
id_0_0_0_22 nd_1_0_5000_9000 0 pwl(0 0.0 1.360e-01ns 0.0  1.860e-01ns 4.0e-02  1.935e-01ns 4.0e-02  2.435e-01ns 0.0)
rdesr_0_0_0_22 nd_1_0_5000_9000 nd_1_0_5000_9000_ci 38.8413
cd_0_0_0_22 nd_1_0_5000_9000_ci 0 3.00861e-12
id_0_0_0_23 nd_1_0_7000_9000 0 pwl(0 0.0 2.777e-01ns 0.0  3.277e-01ns 8.8e-02  3.412e-01ns 8.8e-02  3.912e-01ns 0.0)
rdesr_0_0_0_23 nd_1_0_7000_9000 nd_1_0_7000_9000_ci 16.1865
cd_0_0_0_23 nd_1_0_7000_9000_ci 0 2.93864e-12
id_0_0_0_24 nd_1_0_9000_9000 0 pwl(0 0.0 8.538e-01ns 0.0  9.038e-01ns 3.7e-02  9.349e-01ns 3.7e-02  9.849e-01ns 0.0)
rdesr_0_0_0_24 nd_1_0_9000_9000 nd_1_0_9000_9000_ci 29.9174
cd_0_0_0_24 nd_1_0_9000_9000_ci 0 2.58341e-12

*-- intentional decap
cd_add_cap0 nd_1_0_3000_3000 nd0 'dcap_int_val164'
cd_add_cap1 nd_1_0_7000_3000 nd1 'dcap_int_val165'
cd_add_cap2 nd_1_0_3000_7000 nd2 'dcap_int_val166'
cd_add_cap3 nd_1_0_7000_7000 nd3 'dcap_int_val167'
rd_add0 nd0 0 'esr43'
rd_add1 nd1 0 'esr44'
rd_add2 nd2 0 'esr45'
rd_add3 nd3 0 'esr46'

.include 'moscap_esr.txt'
.include 'int_param_dcap.txt'


*-- p/g pad array
xd_pad_0_1 nd_pad_port_0_1 nd_pad_0_1 ubump_subckt
xd_pad_0_3 nd_pad_port_0_3 nd_pad_0_3 ubump_subckt
xd_pad_1_0 nd_pad_port_1_0 nd_pad_1_0 ubump_subckt
xd_pad_1_2 nd_pad_port_1_2 nd_pad_1_2 ubump_subckt
xd_pad_2_1 nd_pad_port_2_1 nd_pad_2_1 ubump_subckt
xd_pad_2_3 nd_pad_port_2_3 nd_pad_2_3 ubump_subckt
xd_pad_3_0 nd_pad_port_3_0 nd_pad_3_0 ubump_subckt
xd_pad_3_2 nd_pad_port_3_2 nd_pad_3_2 ubump_subckt
.include 'ubump.subckt'

*-- pad to via
rd_pad2via_0_1 nd_pad_0_1 nd_2_0_1000_3000  0.001
rd_pad2via_0_3 nd_pad_0_3 nd_2_0_1000_7000  0.001
rd_pad2via_1_0 nd_pad_1_0 nd_2_0_3000_1000  0.001
rd_pad2via_1_2 nd_pad_1_2 nd_2_0_3000_5000  0.001
rd_pad2via_2_1 nd_pad_2_1 nd_2_0_5000_3000  0.001
rd_pad2via_2_3 nd_pad_2_3 nd_2_0_5000_7000  0.001
rd_pad2via_3_0 nd_pad_3_0 nd_2_0_7000_1000  0.001
rd_pad2via_3_2 nd_pad_3_2 nd_2_0_7000_5000  0.001

.ends chiplet8
